US09078888B2
A mixture of trans-3,5-dimethoxycinnamic acid (15.30 g, 73.48 mmol) and thionyl chloride (13.11 g, 0.11 mol) were placed in a 250 mL single-necked round-bottomed flask fitted with a magnetic stirring bar and reflux condenser. Dry methylene chloride (80.0 mL) was added to the above mixture. The resulting solution was heated to reflux for 3 hours. Then, the solvent was removed under reduced pressure. The residue was dried under vacuum overnight to give a pale-yellow solid, trans-3,5-dimethoxycinnamic acid chloride.

reactant | trans-3,5-dimethoxycinnamic acid | 73.48 mmol, 15.30 g | COC=1C=C(/C=C/C(=O)O)C=C(C1)OC | C11H12O4
reactant | thionyl chloride | 0.11 mol, 13.11 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 80.0 mL | C(Cl)Cl | CH2Cl2
product | trans-3,5-dimethoxycinnamic acid chloride | COC=1C=C(/C=C/C(=O)Cl)C=C(C1)OC | C11H11ClO3
